US04175130
Methyl 2-p-chlorophenyl-5-m-nitrophenoxy-4-oxazoleacetate
To a solution of 1.0 g of 2-p-chlorophenyl-5-m-nitrophenoxy-4-oxazoleacetic acid in 20 ml of methanol was added 0.02 ml of concentrated sulfuric acid. The mixture was refluxed under heating for 45 minutes on a mantle heater. After the completion of reaction, the solvent was distilled off under reduced pressure. To the residue were added ice-cold water and potassium carbonate, and the mixture was extracted with ethyl acetate. After the organic layer was concentrated, recrystallization of the residue from a mixture of n-hexane and ethyl acetate gave 0.97 g of the title compound, melting at 97°-99° C.

reactant | 2-p-chlorophenyl-5-m-nitrophenoxy-4-oxazoleacetic acid | 1.0 g | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)OC1=CC(=CC=C1)[N+](=O)[O-] | C17H11ClN2O6
reactant | sulfuric acid | 0.02 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 20 ml | CO | CH4O
product | Methyl 2-p-chlorophenyl-5-m-nitrophenoxy-4-oxazoleacetate | 0.97 g | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OC)OC1=CC(=CC=C1)[N+](=O)[O-] | C18H13ClN2O6
